US08334292B1
Step 5: Preparation of (R)-methyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate hydrochloride salt
Using the procedure of Example 1 Step 5, 4-(((R)-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine with methyl chloroformate to provide the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.08 (s, 1H), 7.38 (d, 2H), 6.94 (d, 2H), 5.22 (sb, 1H), 4.31 (d, 2H), 4.07 (m, 1H), 3.88 (m, 4H), 3.70 (s, 3H), 3.72-3.36 (m, 4H), 2.68 (m, 1H), 2.03 (m, 2H), 1.87-1.52 (m, 6H), 1.25 (m, 3H), 0.95 (d, 3H); MS (ESI) m/z: Found: 510.3 (M+1). Calc. 509.3 (M+).

reactant | 4-(((R)-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | N1C[C@@H](CC1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C26H37N5O2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | (R)-methyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate hydrochloride salt | Cl.C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OC[C@H]1CN(CC1)C(=O)OC)C1=CC=C(C=C1)N1CCOCC1 | InChI=1S/C28H39N5O4.ClH/c1-20-3-7-23(8-4-20)30-27-29-17-25(22-5-9-24(10-6-22)32-13-15-36-16-14-32)26(31-27)37-19-21-11-12-33(18-21)28(34)35-2;/h5-6,9-10,17,20-21,23H,3-4,7-8,11-16,18-19H2,1-2H3,(H,29,30,31);1H/t20-,21-,23+;/m1./s1
